US07572809B2
NaH (6 mg) was added to 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol (50 mg) in DMF (2 ml) and stirred at room temperature for 30 minutes. Then 2-bromoethyl methyl ether (23 mg) was added and stirred at room temperature overnight. The mixture was sent to preparative LC-MS and 5 mg of [1-Isopropoxy-6-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine was produced. LC-MS m/e 357(MH+).

reactant | NaH | 6 mg | [H-].[Na+]
reactant | 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | 50 mg | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)O)NC1=NNC(=C1)C | C16H18N4O2
reactant | 2-bromoethyl methyl ether | 23 mg | COCCBr | C3H7BrO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | [1-Isopropoxy-6-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | 5 mg | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)OCCOC)NC1=NNC(=C1)C | C19H24N4O3
